US05665733
Methyl 2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoate.
0.25 g of 5% palladium-on-charcoal is added to a solution of 3.8 g (11.9 mmol) of methyl (E)-3-(2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinol-4-yl)prop-2-enoate in 100 ml of acetic acid and the suspension is subjected to hydrogenation in a Parr apparatus under pressure of approximately 0.3 MPa for 1 h at room temperature and then for 3 h at approximately 50° C. The catalyst is removed by filtering, the filtrate is concentrated under reduced pressure, ice-cold water, 200 ml of dichloromethane and 100 ml of 1N sodium hydroxide are added to the residue, the organic phase is separated, washed with water and dried over sodium sulphate and the solvent is evaporated under reduced pressure. The crude product is purified by chromatography on a column of silica gel, elution being carried out with a mixture of dichloromethane and ethyl acetate ranging from 100/0 to 70/30. After recrystallizing from a mixture of cyclohexane and dichloromethane, 2.69 g (8.37 mmol) of white solid are obtained. Melting point: 134°-135° C.

reactant | methyl (E)-3-(2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinol-4-yl)prop-2-enoate | 11.9 mmol, 3.8 g | CN1C(C2=CC=CC=C2C(=C1C1=CC=CC=C1)/C=C/C(=O)OC)=O | C20H17NO3
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 0.25 g | [Pd] | Pd
product | Methyl 2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoate | CN1C(C2=CC=CC=C2C(=C1C1=CC=CC=C1)CCC(=O)OC)=O | C20H19NO3
